US05260293
t-Butyllithium (10.6 ml of a 1.7M solution in pentane, 18 mmol) was added dropwise to a rapidly stirred solution of 2-iodopyrazine (1.86 g, 9.0 mmol) in ether (50 ml), at -45° C. After 0.25 h a solution of 1-azabicyclo[2.2.1]heptan-3-one (1 g, 9.0 mmol) in ether (20 ml) was added dropwise and the reaction mixture warmed to room temperature and stirred for 16 h. Water (25 ml) was added and the solution stirred for 0.25 h before adding dichloromethane (150 ml) and extracting. The aqueous was extracted twice more with dichloromethane (2×150 ml). the extracts combined, dried (Na2SO4.MgSO4) and the solvent removed under vacuum. The residue was purified by chromatography through alumina, eluting with dichloromethane/methanol (93:7). Recrystallisation from ethyl acetate gave 3-(2-pyrazinyl)-1-azabicyclo[2.2.1]heptan-3-ol (0.51 g) as a pale yellow solid, m.p. 180°-183° C.; (Found C, 62.10; H,6.79; N,21.48. C10H13N3O.O.15 H2O requires C,61.95; H,6.87; N,21.68%; δ (360 MHz,CDCl3) 1.40-1.59(1H,m,CH of CH2); 2.33-2.36(1H,m,CH of CH2); 2.47(1H,dd,J=4 and 10 Hz, CH of CH2 --N); 2.59(1H,dd J=4 and 10 Hz, CH of CH2 --N); 2.74(1H,d, J=4Hz, CH-bridgehead); 2.76-2.81(1H,m,CH of CH2 --N); 2.93-3.03(2H,m,2×CH of 2×CH2 --N): 3.39(1H,dd J=1.5 and 15Hz, CH of CH2 --N); 4.10-4.30(1H,m,OH); 8.49-8.50(2H,m,pyrazine-H); 8.87(1H,m,pyrazine-H).

reactant | t-Butyllithium | C(C)(C)(C)[Li]
reactant | 2-iodopyrazine | 9.0 mmol, 1.86 g | IC1=NC=CN=C1 | C4H3IN2
reactant | 1-azabicyclo[2.2.1]heptan-3-one | 9.0 mmol, 1 g | N12CC(C(CC1)C2)=O | C6H9NO
reactant | Water | 25 ml | O | H2O
solvent | pentane | CCCCC | C5H12
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | ether | 20 ml | CCOCC | C4H10O
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | 3-(2-pyrazinyl)-1-azabicyclo[2.2.1]heptan-3-ol | 0.51 g | N1=C(C=NC=C1)C1(CN2CCC1C2)O | C10H13N3O
